US06271225B1
In the same manner as in Example 62 and using 8-fluoro-2-methoxy-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine, dichloromethane, ethanedithiol and aluminium chloride, 8-fluoro-2-hydroxyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine is obtained.

reactant | 8-fluoro-2-methoxy-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=C(C=C2)OC)N2CCN(CC2)C)C=C1 | C21H21FN4OS
reactant | ethanedithiol | C(C)(S)S | C2H6S2
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-fluoro-2-hydroxyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=C(C=C2)O)N2CCN(CC2)C)C=C1 | C20H19FN4OS
